US04159273
Ethyl 5-fluoro-6,7,8,9-tetrahydro-4-oxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylate
A solution of ethyl 5-chloro-6,7,8,9-tetrahydro-4-oxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylate (9 g) and desiccated potassium fluoride (2.32 g) in DMF (50 ml) was heated at 160° for 3.5 hours. After cooling, the reaction mixture was poured into water (250 ml) and the precipitate filtered off, washed with water and dried. Recrystallisation from cyclohexane gave the title compound as a pale-yellow solid, mp 126°-9°.

reactant | ethyl 5-chloro-6,7,8,9-tetrahydro-4-oxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylate | 9 g | ClC1=C2CCCCC2=C(C=2OC(=CC(C21)=O)C(=O)OCC)CCC | C19H21ClO4
reactant | potassium fluoride | 2.32 g | [F-].[K+]
reactant | water | 250 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Ethyl 5-fluoro-6,7,8,9-tetrahydro-4-oxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylate | FC1=C2CCCCC2=C(C=2OC(=CC(C21)=O)C(=O)OCC)CCC | C19H21FO4
